US07585885B2
2-Cyclopropylamino-6-cyclopropanesulfonyl-isonicotinic acid
Add trifluoroacetic acid (2 mL) to a solution of 2-cyclopropylamino-6-cyclopropanesulfonyl-isonicotinic acid tert-butyl ester (0.120 g, 0.355 mmol) in dichloromethane (2 mL) at 0° C. Stir the solution at room temperature for 3 h, concentrate and dry the title compound (0.076 g, 54%).

reactant | trifluoroacetic acid | 2 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | 2-cyclopropylamino-6-cyclopropanesulfonyl-isonicotinic acid tert-butyl ester | 0.355 mmol, 0.120 g | C(C)(C)(C)OC(C1=CC(=NC(=C1)S(=O)(=O)C1CC1)NC1CC1)=O | C16H22N2O4S
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
product | 2-Cyclopropylamino-6-cyclopropanesulfonyl-isonicotinic acid | C1(CC1)NC=1C=C(C(=O)O)C=C(N1)S(=O)(=O)C1CC1 | C12H14N2O4S
